US07728023B2
N,N-dimethyl-1-(2-methyl-4-nitro-1H-indol-3-yl)methanamine
To an acetic acid (5 mL) solution of an aqueous 370% formaldehyde solution (271 mg), an aqueous 50% dimethylamine solution (317 mg) was slowly added dropwise under ice cooling and the mixture was stirred at room temperature for 30 minutes. Furthermore, an acetic acid (1 mL) solution of 2-methyl-4-nitro-1H-indole [Tetrahedron 1, 1999, 5395-5398] (310 mg) was added and the mixture was stirred at room temperature for 24 hours. The pH of the reaction mix was adjusted to 9 using an aqueous 5M sodium hydroxide solution, followed by extraction with dichloromethane three times. The organic layer was washed with saturated saline, dried over anhydrous sodium sulfate and then concentrated. The residue was washed with diisopropyl ether to obtain the titled compound having the following physical properties (303 mg).

reactant | formaldehyde | 271 mg | C=O | CH2O
reactant | dimethylamine | 317 mg | CNC | C2H7N
reactant | 2-methyl-4-nitro-1H-indole | 310 mg | CC=1NC2=CC=CC(=C2C1)[N+](=O)[O-] | C9H8N2O2
reactant | sodium hydroxide | 5M | [OH-].[Na+]
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-1-(2-methyl-4-nitro-1H-indol-3-yl)methanamine | CN(CC1=C(NC2=CC=CC(=C12)[N+](=O)[O-])C)C | C12H15N3O2
